US07544704B2
b) 2-Methyl-5-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-thiazole-4-carboxylic acid ethyl ester
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (51 mg, 0.28 mmol) was converted (using 5-iodo-2-methyl-thiazole-4-carboxylic acid ethyl ester instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 83 mg, 84%) which was obtained as a light brown solid. MS: m/e=353.2 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.28 mmol, 51 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 5-iodo-2-methyl-thiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1I)C | C7H8INO2S
product | 2-Methyl-5-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-thiazole-4-carboxylic acid ethyl ester | 83 mg, 84% | C(C)OC(=O)C=1N=C(SC1C#CC=1C(=NOC1C)C1=CC=CC=C1)C | C19H16N2O3S
